US04335138
50 g of pent-1-en-3-one and 50 g of butadiene are reacted, in the presence of 1 g of hydroquinone, in a 250 ml shaken bomb, at 100° C. After 5 hours, the bomb is cooled and the product is distilled. 55 g=76% of cyclohex-3-enyl ethyl ketone, of boiling point 78°-81° C./10 mm Hg, are obtained.

reactant | pent-1-en-3-one | 50 g | C=CC(CC)=O | C5H8O
reactant | butadiene | 50 g | C=CC=C | C4H6
reactant | hydroquinone | 1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | cyclohex-3-enyl ethyl ketone | 76% | C(C)C(=O)C1CC=CCC1 | C9H14O
